US06359145B1
NaBH4 (22 mg) was added portionwise to an ice cooled solution of methyl 4-(1-naphthyl)-2-oxobutyrate (obtained in Preparation 12) (252.5 mg) in THF(5 ml)-H2O (1 ml). After the addition was completed, the reaction mixture was stirred at ice-bath temperature for 30 minutes. Water (4 ml) was added, and the resulting mixture was stirred for several minutes and then extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel (5 g) column chromatography eluting with hexane/ethyl acetate (10:1) to give methyl 2-hydroxy-4-(1-naphthyl)butyrate (84.4 mg) as a colorless oil.

reactant | NaBH4 | 22 mg | [BH4-].[Na+]
reactant | methyl 4-(1-naphthyl)-2-oxobutyrate | 252.5 mg | C1(=CC=CC2=CC=CC=C12)CCC(C(=O)OC)=O | C15H14O3
reactant | H2O | 1 ml | O | H2O
reactant | Water | 4 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | methyl 2-hydroxy-4-(1-naphthyl)butyrate | 84.4 mg | OC(C(=O)OC)CCC1=CC=CC2=CC=CC=C12 | C15H16O3
